US09162934B2
A ruthenium complex Ru(OTf)[(S,S)-iso-BuSO2dpen] (p-cymene) (1.4 mg, 0.002 mmol), potassium formate (1.0 g, 12 mmol), and 3′,5′-bis(trifluoromethyl)acetophenone (2.56 g, 10 mmol, substrate/catalyst ratio=5000) were set in a 20 mL glass Schlenk-type reaction tube under an argon atmosphere. Methanol (6 mL) was added thereto and stirred at 50° C. for 24 hours to give (S)-1-[3′,5′-bis(trifluoromethyl)phenyl]ethanol at 100% yield and 87.7% ee optical purity.

reactant | potassium formate | 12 mmol, 1.0 g | C(=O)[O-].[K+]
reactant | 3′,5′-bis(trifluoromethyl)acetophenone | 10 mmol, 2.56 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)=O)(F)F | C10H6F6O
catalyst | ruthenium | 0.002 mmol, 1.4 mg | [Ru] | Ru
solvent | Methanol | 6 mL | CO | CH4O
product | (S)-1-[3′,5′-bis(trifluoromethyl)phenyl]ethanol | 100% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H](C)O)(F)F | C10H8F6O
